US05607950
1-Benzyl-4-(2-cyano-2,2-diphenylethyl)piperidine
Sodium hydride (1.69 g, 42.1 mmol; 80% dispersion in oil) was added portionwise over 10 minutes to a solution of diphenylacetonitrile (7.4 g, 38.3 mmol) in toluene (40 ml) and the mixture was heated under reflux for 45 minutes, treated with 1-benzyl-4-chloromethylpiperidine (4.3 g, 1.92 mmol; prepared by partitioning the hydrochloride salt, which was obtained by the method described in J. Het. Chem., 1978, 15, 675, between 10% aqueous sodium carbonate solution and dichloromethane, drying the organic layer over magnesium sulphate and evaporating), heated under reflux for one hour, allowed to cool to room temperature and partitioned between toluene and water. The organic layer was dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 0-5% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (7.57 g, 52%) as a colourless foam which was characterised by its 1H-NMR spectrum.

reactant | Sodium hydride | 42.1 mmol, 1.69 g | [H-].[Na+]
reactant | diphenylacetonitrile | 38.3 mmol, 7.4 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | 1-benzyl-4-chloromethylpiperidine | C(C1=CC=CC=C1)N1CCC(CC1)CCl | C13H18ClN
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-4-(2-cyano-2,2-diphenylethyl)piperidine | 7.57 g, 52% | C(C1=CC=CC=C1)N1CCC(CC1)CC(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C27H28N2
